US06930120B2
2-Methyl-3-{5-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propionyl]-thiophen-2-yl}-2-phenoxy-propionic acid methyl ester
A sample of 3-(5-methyl-2-phenyl-oxazol-4-yl)-propionic acid (2.27 g, 9.82 mmol) was dissolved in anhydrous CH2Cl2 (20 mL) followed by addition of a catalytic amount of DMF (0.72 mL) and slow addition of a 2 M solution of oxalyl chloride (7.36 mL). The reaction mixture was stirred at room temperature for 24 h under N2. The solvent was removed in vacuo to provide crude acid chloride which was then dissolved in 10 mL anhydrous CH2Cl2 and then added to a flask containing 2-methyl-2-phenoxy-3-thiophen-2-yl-propionic acid methyl ester (527167) (2.51 g, 9.11 mmol) in anhydrous CH2Cl2 (10 mL) at 0° C. under N2. Anhydrous 1.0 M SnCl4 solution (5.6 mL) was then added dropwise at 0° C. After 1 h, the reaction was checked by HPLC, it appeared that little product had formed. Another 3.3 mL of SnCl4 solution was added and allowed to stir for 24 h at room temperature. When the starting materials were consumed, the reaction was quenched by adding 6 M HCl dropwise at 0° C. until solid forms (20 mL) and the aqueous phase was extracted with CH2Cl2 (2×50 mL). The organic layer was washed with water (50 mL) and solvent removed to give an oil. Following column chromatography (gradient 5% to 20% EtOAc in hexane), 1.31 g (30%) of product was obtained: 1H NMR (400 MHz, CDCl3) δ 7.95 (d, 2H), 7.56 (d, 1H), 7.38 (m, 3H), 7.20 (m, 2H), 6.84 (t, 1H), 6.81 (m, 3H), 3.72 (s, 3H), 3.50 (d, 1H), 3.33 (d, 1H), 3.28 (t, 2H), 2.89 (t, 2H), 2.33 (s, 3H), 1.41 (s, 3H); MS (EI) 490.2 (M+H)+.

reactant | 3-(5-methyl-2-phenyl-oxazol-4-yl)-propionic acid | 9.82 mmol, 2.27 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)O | C13H13NO3
reactant | oxalyl chloride | 7.36 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methyl-2-phenoxy-3-thiophen-2-yl-propionic acid methyl ester | 9.11 mmol, 2.51 g | COC(C(CC=1SC=CC1)(OC1=CC=CC=C1)C)=O | C15H16O3S
reactant | SnCl4 | 1.0 M, 5.6 mL | Cl[Sn](Cl)(Cl)Cl
reactant | SnCl4 | 3.3 mL | Cl[Sn](Cl)(Cl)Cl
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 0.72 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-3-{5-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propionyl]-thiophen-2-yl}-2-phenoxy-propionic acid methyl ester | 1.31 g, 30% | COC(C(CC=1SC(=CC1)C(CCC=1N=C(OC1C)C1=CC=CC=C1)=O)(OC1=CC=CC=C1)C)=O | C28H27NO5S
